US06060459
Preparation of Palmitoyl-8-mercapto-2'-deoxyguanosine
This compound was prepared using the procedure for palmitoyl-2'-deoxyguanosine, substituting the appropriate amount of 8-mercaptoguanosine for 2'-deoxyguanosine monohydrate.

reactant | palmitoyl-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C26H43N5O5
reactant | 8-mercaptoguanosine | SC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=C(NC(C2N1)=O)N | C10H13N5O5S
reactant | 2'-deoxyguanosine monohydrate | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12
product | Palmitoyl-8-mercapto-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C(=NC=2C(=O)NC(N)=NC12)S | C26H43N5O5S
